Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
penicillin G
 
Attending: ___.
 
Chief Complaint:
motorcycle crash trauma patient complaining of thoracic pain 
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ MCC ___ thrown 30ft +helmet, -LOC; SAH, left ribs 
___ post, ___, small left pneumothorax and 
effusion, right gluteal hematoma with active extravasation, left 
clavicle fracture.
 
Past Medical History:
Non-contributory
 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
VITALS: T 98.9, HR 87, BP 128/73, RR 22, SpO2 95% on 2LNC  
GENERAL: uncomfortable with deep breathing, lying in bed  
HEENT: EOMI, CN II-XII grossly intact  
HEART: RRR  
LUNGS: Decreased breath sounds on left  
ABD: soft, non-tender, non-distended  
MSK/EXT: moves all extremities well  

 
Pertinent Results:
LABS:  
 WBC 8.1, H/H 11.8/35.7, Plt 192, BUN/Cr ___, K 4.3  

IMAGING:  
 CXR ___:  
 Small left pleural or extrapleural hematoma is responsible for 
greater density left hemi thorax, associated with angulated 
fractures lateral aspects of left middle ribs. No pneumothorax 
or pulmonary contusion. Normal cardiomediastinal silhouette.  

CXR ___:  
 Uniform opacification of the left hemithorax likely reflects a 
layering pleural effusion. Multiple left-sided ribs are 
fractured in at least 2 places each. Lateral fractures of the 
fifth, sixth, and seventh ribs are moderately displaced. Low 
lung volumes cause bronchovascular crowding. Allowing for 
technique, the cardiomediastinal silhouette is likely normal. 
There is mild cardiomegaly.  
 IMPRESSION:  
 1. Multiple left-sided ribs are fractured laterally and 
posteriorly.  
 2. Uniformly increased density over the left lung suggests 
layering pleural effusion.  
 3. Low lung volumes.  

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male s/p motorcycle crash (thrown 30 
feet from site of crash), no LOC, who initially presented to 
___. CT head revealed sub-arachnoid hemorrhage, and the 
patient presented to ___ for further management. In addition 
to ___, there was evidence of multi-compartment intracranial 
hemorrhage, he has multiple other injuries including a 
non-displaced left occipital skull fracture, left clavicle 
deformity, and fractures of the left ___ ribs.  
 Mr. ___ was admitted to TSICU/ACS surgery and APS was 
consulted for assistance with pain-control in the setting of rib 
fractures, currently impairing the patient's ability to move, 
take deep breaths. He rated the pain a ___, and was unable 
to cough or take a deep breath. His O2 saturations have been 
>95% on 2LNC. Ortho and ENT consulted the patient and gave 
recommendations for treatment. After 2 days of treatment and 
management, pain got better and patient is ready to be 
discharged home.

 

 
Medications on Admission:
Ropivacaine 0.2% via L paravertebral catheter at 8 cc/hr, as 
tolerated  
Hydromorphone 0.25 mg IV q3hr PRN  
Oxycodone ___ mg PO q3hr PRN  
Acetaminophen 1000 mg IV q6hr standing  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 4 mg ___ tablet(s) by mouth Q4H PRN Disp #*45 
Tablet Refills:*0 
3.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*6 Tablet Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QPM 
RX *lidocaine 5 % 1 patch daily Disp #*30 Patch Refills:*0 

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
List of Injuries: 
L rib fx ___ post, ___  
 L clavicle frx  
 SAH  
 R gluteal hematoma  
 Nondisplaced left occipital skull frx  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after your crash for your 
subarachnoid hemorrhage, rib fractures, pneumothorax, gluteal 
hematoma, and left clavicular fracture. You are now well enough 
to be discharged home. 

* Your injury caused multiple rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___